US08222416B2
A mixture of (tetrahydro-pyran-4-ylidene)-acetic acid ethyl ester (27 g, 159 mmol) and 10% palladium on activated carbon (3 g) in methanol (300 mL) was stirred at 25° C. under 30 psi of hydrogen for 20 h. The catalyst was filtered off, washed with ethyl acetate and concentrated in vacuo to afford (tetrahydro-pyran-4-yl)-acetic acid ethyl ester (25 g, 91%) as a colorless oil which was used in the next step without purification.

reactant | (tetrahydro-pyran-4-ylidene)-acetic acid ethyl ester | 159 mmol, 27 g | C(C)OC(C=C1CCOCC1)=O | C9H14O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 3 g | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | (tetrahydro-pyran-4-yl)-acetic acid ethyl ester | 25 g, 91% | C(C)OC(CC1CCOCC1)=O | C9H16O3
